US05594023
3-Amino-3-(2-chlorophenyl)-5-ethoxy-1,3-dihydro-1-(2-methoxy-4-nitrobenzenesulfonyl)indol-2-one
This compound is prepared according to the procedure described in EXAMPLE 16 from 3-amino-3-(2-chlorophenyl)-5-ethoxy-1,3-dihydroindol-2-one and 2-methoxy-4-nitrobenzenesulfonyl chloride. Crystallization from a DCM/iso ether mixture gives the expected product, which crystallizes with 0.25 mol of iso ether. M.p.=129°-132° C.

reactant | 3-amino-3-(2-chlorophenyl)-5-ethoxy-1,3-dihydroindol-2-one | NC1(C(NC2=CC=C(C=C12)OCC)=O)C1=C(C=CC=C1)Cl | C16H15ClN2O2
reactant | 2-methoxy-4-nitrobenzenesulfonyl chloride | COC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)Cl | C7H6ClNO5S
product | 3-Amino-3-(2-chlorophenyl)-5-ethoxy-1,3-dihydro-1-(2-methoxy-4-nitrobenzenesulfonyl)indol-2-one | NC1(C(N(C2=CC=C(C=C12)OCC)S(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])OC)=O)C1=C(C=CC=C1)Cl | C23H20ClN3O7S
